US06060459
Preparation of Benzoyl-2'-deoxyguanosine
This compound was prepared using the procedure for palmitoyl-2'-deoxyguanosine, substituting the appropriate amount of benzoyl chloride for palmitoyl chloride, and substituting a 1:1 mixture of ice water and saturated aqueous sodium bicarbonate solution in the workup.

reactant | palmitoyl-2'-deoxyguanosine | C(CCCCCCCCCCCCCCC)(=O)[C@@]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C26H43N5O5
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | palmitoyl chloride | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | Benzoyl-2'-deoxyguanosine | C(C1=CC=CC=C1)(=O)[C@@]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C17H17N5O5
